US08809267B2
To a mixture of 1-{[1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethyl-butyryl]-4-(4-bromobenzenesulfonyloxy)pyrrolidine-2-carbonyl]amino}-2-ethyl-cyclopropanecarboxylic acid methyl ester (15 g, 35 mmol) and 8-chloro-7-(2,2-dimethoxyethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-ol (27.5 g, 38.5 mmol) in NMP (200 ml) was added cesium carbonate (25.1 g, 77 mmol). The mixture was stirred at 65° C. for 5 h. The reaction was cooled to room temperature and EtOAc (600 ml) and an aqueous solution of 3% LiCl (600 ml) were added to the mixture. The organic layer was washed with aqueous 3% LiCl (1×600 ml), brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography to produce 1-({1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-[8-chloro-7-(2,2-dimethoxyethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-yloxy]pyrrolidine-2-carbonyl}amino)-2-ethylcyclopropanecarboxylic acid methyl ester as a yellow solid (23.6 g, 75% yield). LCMS found 900.1 [M+H]+.

reactant | 1-{[1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethyl-butyryl]-4-(4-bromobenzenesulfonyloxy)pyrrolidine-2-carbonyl]amino}-2-ethyl-cyclopropanecarboxylic acid methyl ester | 35 mmol, 15 g | COC(=O)C1(C(C1)CC)NC(=O)C1N(CC(C1)OS(=O)(=O)C1=CC=C(C=C1)Br)C(C(C(C)(C)C)NC(=O)OC1CC2CC2C1)=O | C31H42BrN3O9S
reactant | 8-chloro-7-(2,2-dimethoxyethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-ol | 38.5 mmol, 27.5 g | ClC=1C(=CC=C2C(=CC(=NC12)C=1N=C(SC1)NC(C)C)O)OCC(OC)OC | C19H22ClN3O4S
reactant | cesium carbonate | 77 mmol, 25.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | LiCl | 600 ml | [Li+].[Cl-]
solvent | NMP | 200 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 600 ml | CCOC(=O)C | C4H8O2
product | 1-({1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-[8-chloro-7-(2,2-dimethoxyethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-yloxy]pyrrolidine-2-carbonyl}amino)-2-ethylcyclopropanecarboxylic acid methyl ester | 23.6 g, 75% yield | COC(=O)C1(C(C1)CC)NC(=O)C1N(CC(C1)OC1=CC(=NC2=C(C(=CC=C12)OCC(OC)OC)Cl)C=1N=C(SC1)NC(C)C)C(C(C(C)(C)C)NC(=O)OC1CC2CC2C1)=O | C44H59ClN6O10S
